US08012976B2
Ethyl 3-(1-ethyl-1H-imidazol-2-yl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one (765 mg, 3 mmol) and N-ethyl-2-imidazolecarbaldehyde (372 mg, 3 mmol) in ethyl propionate (45 mL) was cooled to 0° C. Then a solution of sodium ethoxide (sodium (276 mg, 12 mmol) in ethanol (45 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 4 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by chromatography (silica gel, petroleum ether/ethyl acetate=25:1 to 5:1) to give the title compound (90 mg, yield: 7%). LC-MS (ESI) m/z: 408 (M+1)+.

reactant | (E)-4-(4-fluorobenzylideneamino)isobenzofuran-1(3H)-one | 3 mmol, 765 mg | FC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C15H10FNO2
reactant | N-ethyl-2-imidazolecarbaldehyde | 3 mmol, 372 mg | C(C)N1C(=NC=C1)C=O | C6H8N2O
reactant | sodium ethoxide | 12 mmol, 45 mL, 276 mg | [O-]CC.[Na+]
solvent | ethyl propionate | 45 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 3-(1-ethyl-1H-imidazol-2-yl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 90 mg, yield: 7% | C(C)N1C(=NC=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=C(C=C1)F | C23H22FN3O3
